US09382255B2
Ethyl 4-[(5-methoxy-2-oxo-2,3-dihydro-1,3-benzothiazol-6-yl)amino]-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylate
75 mg (332 μmol) ethyl 4-chloro-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylate (CAS-No: 187725-00-4) were transformed in analogy to example 1 using 6-amino-5-methoxy-1,3-benzothiazol-2(3H)-one to give after working up and purification 20.0 mg (15%) of the title compound.

reactant | ethyl 4-chloro-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylate | 332 μmol, 75 mg | ClC=1C2=C(N=CN1)NC(=C2)C(=O)OCC | C9H8ClN3O2
reactant | 6-amino-5-methoxy-1,3-benzothiazol-2(3H)-one | NC1=CC2=C(NC(S2)=O)C=C1OC | C8H8N2O2S
product | Ethyl 4-[(5-methoxy-2-oxo-2,3-dihydro-1,3-benzothiazol-6-yl)amino]-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylate | COC=1C(=CC2=C(NC(S2)=O)C1)NC=1C2=C(N=CN1)NC(=C2)C(=O)OCC | C17H15N5O4S
